US06821984B2
To a stirred solution of 7-(2-chloro-4,6-dimethylphenyl)-2-methyl-4,5,6,7-tetrahydro-2H-pyrazolo[3,4-b]pyridin-3-ylamine (0.51 g) and triethylamine (0.27 mL) in dichloromethane (40 mL) at 0° C. was added propionyl chloride (0.17 mL) in dichloromethane (10 mL) dropwise over 25 minutes. The resulting mixture was stirred for an additional 1 hour at 0° C., followed by 14 hours at room temperature. The reaction mixture was then stirred with an aqueous 5% citric acid solution (40 mL) for 10 minutes. The layers were separated, and the aqueous layer was further extracted with dichloromethane (50 mL). The combined organic extracts were dried over anhydrous sodium sulfate, then decanted from the desiccating agent and concentrated under reduced pressure. The resulting residue was purified by silica gel chromatography using a dichloromethane/methanol gradient to afford N-[7-(2-chloro-4,6-dimethylphenyl)-2-methyl-4,5,6,7-tetrahydro-2H-pyrazolo[3,4-b]pyridin-3-yl]propionamide (0.49 g) as an off white solid, ms m/z 347 (MH+).

reactant | 7-(2-chloro-4,6-dimethylphenyl)-2-methyl-4,5,6,7-tetrahydro-2H-pyrazolo[3,4-b]pyridin-3-ylamine | 0.51 g | ClC1=C(C(=CC(=C1)C)C)N1C=2C(CCC1)=C(N(N2)C)N | C15H19ClN4
reactant | triethylamine | 0.27 mL | C(C)N(CC)CC | C6H15N
reactant | propionyl chloride | 0.17 mL | C(CC)(=O)Cl | C3H5ClO
reactant | citric acid | 40 mL | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | N-[7-(2-chloro-4,6-dimethylphenyl)-2-methyl-4,5,6,7-tetrahydro-2H-pyrazolo[3,4-b]pyridin-3-yl]propionamide | 0.49 g | ClC1=C(C(=CC(=C1)C)C)N1C=2C(CCC1)=C(N(N2)C)NC(CC)=O | C18H23ClN4O
